US05783572
Ethylmagnesium bromide (9.08 mL, 3M in diethyl ether) was added to a suspension of 6,7dichloro-2,3-dimethoxy-5-formylquinoxaline (3.91 g, 13.62 mmol) (Preparation 2) in dry tetrahydrofuran (200 mL) under nitrogen at room temperature. After 30 minutes, saturated sodium chloride (50 mL) was added, and the product was extracted into ethyl acetate (2×100 mL). The combined extracts were dried (MgSO4) and concentrated under reduced pressure. Purification by flash chromatography (eluting with dichloromethane) gave 6,7-dichloro-2,3-dimethoxy-5-(1-hydroxypropyl)-quinoxaline (1.86 g, 43%), as a pale yellow solid.

reactant | Ethylmagnesium bromide | 3M, 9.08 mL | C(C)[Mg]Br
reactant | 6,7dichloro-2,3-dimethoxy-5-formylquinoxaline | 13.62 mmol, 3.91 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C=O | C11H8Cl2N2O3
reactant | sodium chloride | 50 mL | [Cl-].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 6,7-dichloro-2,3-dimethoxy-5-(1-hydroxypropyl)-quinoxaline | 1.86 g, 43% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C(CC)O | C13H14Cl2N2O3
